2136-11-01 06:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt attempted trial of PO intake but had nausea overnight with some
   emesis. Insulin drip discontinued overnight. FSBS trended up.
   Allergies:
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2136-10-31**] 06:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-11-1**] 06:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.8
   HR: 132 (118 - 132) bpm
   BP: 165/99(115) {120/73(82) - 165/99(115)} mmHg
   RR: 16 (12 - 24) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,374 mL
                                                                    943 mL
   PO:
                                                                    130 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,244 mL
                                                                    823 mL
   Blood products:
   Total out:
                                                                    480 mL
                                                                  2,170 mL
   Urine:
                                                                    350 mL
                                                                  2,100 mL
   NG:
                                                                    130 mL
                                                                     70 mL
   Stool:
   Drains:
   Balance:
                                                                    894 mL
                                                                 -1,228 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   Gen: Young fatigued, otherwise well appearing female in NAD,
   uncooperative with exam laying in bed
   HEENT: MM dry. OP clear
   Neck: No JVD, no thyromegaly, no LAD
   Cor: tachy, no m/r/g
   Pulm: CTAB
   Abd: +BS, NTND, No HSM
   Extrem: no c/c/e
   Skin: no rashes
   Neuro: non-focal
   Labs / Radiology
   426
   11.1
   119 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.0 mEq/L
   12 mg/dL
   112 mEq/L
   144 mEq/L
   33.8
   14.7
        [image002.jpg]   6am Na 141 K 5.8 Cl 108 HCO3 16 BUN 8 Cr 0.6 BS
   236
   Hgb A1c 12.4
   U/A: Sm blood, 30+ prot, 1000 gluc Ket 50 Mod baceria
                             [**2136-10-31**]  02:45 PM
                             [**2136-10-31**]  08:27 PM
   Cr
   0.6
   0.6
   Glucose
   112
   119
   Other labs: Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   Pt is a 32F with Type 1 DM presenting with DKA.
   .
   # DKA
 Patient admitted with DKA. Elevated HgbA1c indicateds poor
   control of blood sugars, was previously followed by [**Last Name (un) 276**] but has not
   been seen recently. Gap was closed and bicarb had normalized somewhat
   but repeat labs this am show widened gap and decreased bicarb,
   worsening acidosis. She was also unable to tolerate POs with nausea and
   vomiting. Etiology appears to have been nonspecific illness causing N/V
   which have persisted, as pt reports adherence to her insulin and there
   is no other obvious source of infection. Per report pt does have a h/o
   insulin non-adherence. Other possible etiologies include infection
   although denies focal symptoms, does have elevated WBC but stable,
   afebrile.
   -- Will restart  insulin gtt at 4 units
   -- Continue PO challenge as tolerated
   -- DC SC insulin while on gtt
   -- q1-2h FSG
   -- q4-6h chemistries
   -- continue D51/2NS with K. Will recheck K at 10am
   -- reglan and zofran prn nausea
   -- [**Last Name (un) 276**] c/s
   -- will also check UA and urine cx to eval source of infxn given mod
   bacteria on UA, no prior cx
   .
   # Factor VIII inhibitor - s/p rituximab and steroids
   -- avoid sQ heparin, monitor for bleeding
   .
   # N/V: Most likely [**2-25**] DKA, but other possible etiologies include
   diabetic gastroparesis. Given temporal association with DKA, most
   likely etiology.
   - prn Reglan, Zofran
   # Hypertension: Now normotensive but was hypertensive overnight.  Was
   likely [**2-25**] agitation, N/V. Will follow. No know prior h/o HTN and was
   not previously on any antihypertensives. She is young with no known h/o
   cardiovascular disease.
   # FEN:
   -- DM diet as tolerated
   -- replete lytes prn, follow q4-6
   .
   # PPx:
   -- pboots, ambulation, bowel regimen
   .
   # Access:
   -- PIV
   .
   # Code:
   -- presumed full
   .
   # Communication:
   -- With patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2136-10-31**] 03:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2136-11-02 05:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   U/A marginally positive, pt started on PO Cipro for uncomplicated UTI
   Seen by [**Last Name (un) 276**]
   Off Insulin gtt since 4:30 am
   Allergies:
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ciprofloxacin - [**2136-11-1**] 09:30 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-11-2**] 05:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax:  (99.9
   Tcurrent: (99.1
   HR: 128 (119 - 132) bpm
   BP: 143/90(103) {98/50(61) - 168/90,110(121)} mmHg
   RR: 16 (12 - 24) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,902 mL
                                                                    595 mL
   PO:
                                                                    140 mL
             TF:
   IVF:
                                                                  2,762 mL
                                                                    595 mL
   Blood products:
   Total out:
                                                                  4,590 mL
                                                                    950 mL
   Urine:
                                                                  4,300 mL
                                                                    950 mL
   NG:
                                                                    290 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,688 mL
                                                                   -356 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General:Sleeping, laying in bed, in NAD
   HEENT: MMM. OP clear. No exudate.
   CV: Tachy. Reg. No m/r/g
   Resp: CTAB
   Abd:Soft NT/ND. +BS. No HSM. No CVAT
   Ext:No c/c/e
   Labs / Radiology
   457 K/uL
   12.3 g/dL
   122 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.8 mEq/L
   7 mg/dL
   100 mEq/L
   136 mEq/L
   35.7 %
   13.4 K/uL
        [image002.jpg]
   HCG Neg
   UA Tr leuk, lg blood, [**12-13**] WBC, 100Prot, Glu 1000, Ket 150, Many
   bacteria. Urine cx, bl9ood cx x2 NGTD
                             [**2136-10-31**]  02:45 PM
                             [**2136-10-31**]  08:27 PM
                             [**2136-11-1**]  05:48 AM
                             [**2136-11-1**]  10:00 AM
                             [**2136-11-1**]  02:04 PM
                             [**2136-11-1**]  06:25 PM
                            [**2136-11-2**]  04:28 AM
   WBC
   14.7
   13.4
   Hct
   33.8
   35.7
   Plt
   426
   457
   Cr
   0.6
   0.6
   0.6
   0.7
   0.6
   0.5
   0.6
   Glucose
   112
   119
   236
   122
   288
   107
   122
   Other labs: Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Pt is a 32F with Type 1 DM presenting with DKA.
   .
   # DKA
 Patient admitted with DKA. Elevated HgbA1c indicates poor
   baseline control of blood sugars. Gap now closed and bicarb has
   normalized. She has tolerated some PO intake with some nausea and
   vomiting. Etiology appears to have been nonspecific illness vs. UTI
   given dirty UA . Pt reports adherence to her insulin and there is no
   other obvious source of infection. Per report pt also has h/o insulin
   non-adherence.
   -- Hold  insulin gtt after overlapped with 14 units lantus and
   increased sliding scale
   -- Continue PO challenge as tolerated
   -- q2h FSG
   -- q 6h chemistries
   -- continue D51/2NS with K. Will recheck K at 10am
   -- reglan and zofran, compazine prn nausea
   -- Appreciate [**Last Name (un) 276**] c/s
   -- Will treat for uncomplicated UTI, F/U cx
   .
   # Factor VIII inhibitor - s/p rituximab and steroids
   -- avoid sQ heparin, monitor for bleeding
   .
   # N/V: Most likely [**2-25**] DKA, infection, but other possible etiologies
   include diabetic gastroparesis. Given temporal association with DKA,
   most likely etiology.
   - prn Reglan, Zofran, compazine
   # Hypertension: Now normotensive but was mildly hypertensive
   overnight.  Was likely [**2-25**] agitation, N/V. Will follow. No known prior
   h/o HTN and was not previously on any antihypertensives. She is young
   with no known h/o cardiovascular disease.
   # FEN:
   -- DM diet as tolerated
   -- replete lytes prn, follow q6
   .
   # PPx:
   -- pboots, ambulation, bowel regimen
   .
   # Access:
   -- PIV
   .
   # Code:
   -- presumed full
   .
   # Communication:
   -- With patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2136-10-31**] 03:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Overnight events:
   Insulin drip weaned to off at 4:30 AM, but then able to take only
   minimal pos, gap still closed
   Afebrile HR 132 160/90 16 98% RA
   1.6 liters negative
   Gen: lying in bed nauseated
   HEENT: dry o/p
   CV: tachy
   Chest:: CTA
   Abd: soft NT
   Ext: no edma
   141/5.8(heme) CL 108 Bicarb 16/ BUN 8 CR 0.6 glc 236
   HA1C 12.4
   UA mod bact
   Meds: Insulin drip at 3U, Reglan, Zofran, Ativan, d51/2 20 kcl at 100
   A/P
   1. DKA: gap closed, drip, shut off, [**Last Name (un) 276**] following, need to watch gap
   closely as she is taking minimal pos
   2. Tachycardia: initial theory was dry but persists with hydration,
   then due to pain nausea but persists even when sleeping.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1876**] [**Last Name (NamePattern1) 1877**], MD
   on:[**2136-11-2**] 12:14 ------